US07638517B2
To a RT suspension of 3-phenyl-3-(1H-pyrrolo[3,2-c]pyridin-3-yl)-propionic acid (1.1 mmol) in DCM/DMF (3/2, 5 mL) was added TEA (0.23 mL, 1.7 mmol) followed by MeNH2 (2 M in THF, 0.83 mL) and benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate (0.58 g, 1.3 mmol). The resulting mixture was stirred at RT overnight, diluted with an aqueous solution of NaHCO3, and extracted with EtOAc. The combined organic layers were dried over Na2SO4, filtered, concentrated, and purified via flash chromatography (DCM/MeOH/NH40H), affording N-Methyl-3-phenyl-3-(1H-pyrrolo[3,2-c]pyridin-3-yl)-propionamide (0.16 g).

reactant | 3-phenyl-3-(1H-pyrrolo[3,2-c]pyridin-3-yl)-propionic acid | 1.1 mmol | C1(=CC=CC=C1)C(CC(=O)O)C1=CNC2=C1C=NC=C2 | C16H14N2O2
reactant | MeNH2 | 2 M, 0.83 mL | CN | CH5N
reactant | benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate | 1.3 mmol, 0.58 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DCM DMF | 5 mL | C(Cl)Cl.CN(C)C=O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | N-Methyl-3-phenyl-3-(1H-pyrrolo[3,2-c]pyridin-3-yl)-propionamide | 0.16 g | CNC(CC(C1=CNC2=C1C=NC=C2)C2=CC=CC=C2)=O | C17H17N3O
